US08754114B2
Step 1: 4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzoic acid
A mixture of N-[3-(5-bromo-1H-benzimidazol-1-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (250.0 mg, 0.6050 mmol) (prepared by the procedure for Example 1, step 4), [4-(methoxycarbonyl)phenyl]boronic acid (160 mg, 0.91 mmol, Aldrich, Cat. No. 594539), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (30 mg, 0.04 mmol, Aldrich, Cat. No. 379670) and sodium carbonate (130 mg, 1.2 mmol) in 1,4-dioxane (5 mL) and a few drops of water was heated at 120° C. overnight under nitrogen. After the reaction was cooled to r.t., 1.0 M sodium hydroxide in water (2.4 mL,) was added to the above mixture. The reaction mixture was heated at 100° C. for 2 h, then cooled to r.t. The reaction mixture was diluted with ethyl acetate, and extracted with 1N NaOH aqueous solution twice. The combined aqueous phases were acidified to pH˜2 with 6 M HCl aqueous solution, and then extracted with ethyl acetate twice. The combined organic phases (only the extracted portion with acidic aqueous solution) were washed with brine, dried over MgSO4. After filtration, the filtrate was concentrated under reduced pressure to afford the desired product. LCMS (M+H)+: m/z=455.1.

reactant | N-[3-(5-bromo-1H-benzimidazol-1-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 0.6050 mmol, 250.0 mg | BrC1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1 | C16H12BrF3N4O
reactant | [4-(methoxycarbonyl)phenyl]boronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | sodium carbonate | 1.2 mmol, 130 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | a few drops | O | H2O
solvent | water | 2.4 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzoic acid | FC(CNC(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C2=CC=C(C(=O)O)C=C2)(F)F | C23H17F3N4O3
